US07049342B2
Ethyl 2-ethyl-3-[3-(hydroxyimino)-4-methoxyphenyl]propanoate
A mixture of ethyl 2-ethyl-3-(3-formyl-4-methoxyphenyl)propanoate (1.06 g, 4.01 mmol), hydroxylamine hydrochloride (293 mg, 4.22 mmol), pyridine (1 mL) and ethanol (20 mL) was refluxed for 6 hours. After cooling, the mixture was concentrated and the residue was dissolved in ethyl acetate, which was washed with 1 mol/L hydrochloric acid, saturated aqueous solution of sodium hydrogencarbonate and brine, dried over anhydrous sodium sulfate, and then concentrated. The residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=6:1 v/v) to afford 1.00 g (89%) of the title compound as a pale yellow oil.

reactant | ethyl 2-ethyl-3-(3-formyl-4-methoxyphenyl)propanoate | 4.01 mmol, 1.06 g | C(C)C(C(=O)OCC)CC1=CC(=C(C=C1)OC)C=O | C15H20O4
reactant | hydroxylamine hydrochloride | 4.22 mmol, 293 mg | Cl.NO
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl 2-ethyl-3-[3-(hydroxyimino)-4-methoxyphenyl]propanoate | 1.00 g, 89% | C(C)C(C(=O)OCC)CC=1CC(C(=CC1)OC)=NO | C14H21NO4
